US04632925
Preparation of 4-(2,2-diphenylethenyl)piperidine
The title compound was prepared by dissolving 20 g of alpha,alpha-diphenyl-4-piperidineethanol in 40 mL of anhydrous trifluoroacetic acid and stirring for 15 minutes. The volatiles were removed under vacuum and the residue was partitioned between toluene and 2N sodium hydroxide solution. The organic layers were dried over sodium sulfate, evaporated, and the residue was crystallized from hexane to give 17.2 g (92%) of 4-(2,2-diphenylethenyl)piperidine, mp 98°-99° C. Anal. Calcd for C19H21N: C, 86.65; H, 8,.04; N, 5.32. Found: C, 86.35; H, 7.97; N, 5.26.

reactant | alpha,alpha-diphenyl-4-piperidineethanol | 20 g | C1(=CC=CC=C1)C(CC1CCNCC1)(O)C1=CC=CC=C1 | C19H23NO
solvent | trifluoroacetic acid | 40 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(2,2-diphenylethenyl)piperidine | 17.2 g, 92% | C1(=CC=CC=C1)C(=CC1CCNCC1)C1=CC=CC=C1 | C19H21N
